US07745642B2
Step 5: 2-(Methyloxy)-N-[2-methyl-1-phenyl-2-(1-pyrrolidinyl)propyl]-4,6-bis(trifluoromethyl)benzamide hydrochloride chiral
2-(Methyloxy)-N-[2-methyl-1-phenyl-2-(1-pyrrolidinyl)propyl]-4,6-bis(trifluoromethyl)benzamide E15 from step 4 (10 g; 20.47 mmol) was dissolved in dry ethyl ether (200 mL), cooled to 0° C. and treated with 1M solution of HCl in ethyl ether (21.5 mL; 21.49 mmol). After 0.5 h the solid was collected by filtration, washed with diethyl ether and dried at 45° C. overnight to get the title material (9.1 g) as a pale yellow solid.

reactant | 2-(Methyloxy)-N-[2-methyl-1-phenyl-2-(1-pyrrolidinyl)propyl]-4,6-bis(trifluoromethyl)benzamide | COC1=C(C(=O)NC(C(C)(N2CCCC2)C)C2=CC=CC=C2)C(=CC(=C1)C(F)(F)F)C(F)(F)F | C24H26F6N2O2
reactant | HCl | Cl | ClH
solvent | ethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 21.49 mmol, 21.5 mL | C(C)OCC | C4H10O
product | 2-(Methyloxy)-N-[2-methyl-1-phenyl-2-(1-pyrrolidinyl)propyl]-4,6-bis(trifluoromethyl)benzamide hydrochloride | 9.1 g | Cl.COC1=C(C(=O)NC(C(C)(N2CCCC2)C)C2=CC=CC=C2)C(=CC(=C1)C(F)(F)F)C(F)(F)F | InChI=1S/C24H26F6N2O2.ClH/c1-22(2,32-11-7-8-12-32)20(15-9-5-4-6-10-15)31-21(33)19-17(24(28,29)30)13-16(23(25,26)27)14-18(19)34-3;/h4-6,9-10,13-14,20H,7-8,11-12H2,1-3H3,(H,31,33);1H
